US03935267
a. cis-5,6,7,8-Tetrahydro-1,6,7-naphthalenetriol
A solution of 29.2 g. (0.2 mole) of 5,8-dihydro-1-naphthol and 40 ml. of acetic anhydride in 100 ml. of pyridine is prepared. After 16 hr. the solvent is removed in vacuo and the residue dissolved in ether and washed with 200 ml. of 5% hydrochloric acid, water, 200 ml. of 10% sodium hydroxide, saturated salt solution and dried. Solvent removal gives 34.2 g. (90.5%) of crude acetate which is dissolved in 900 ml. of acetic acid and 36 ml. of water. 53.3 g. (0.32 mole) of silver acetate is added followed by 40.6 g. (0.16 g-atom) of iodine. The slurry is heated with good stirring at 85°± 10° for 3 hr. under nitrogen, cooled and filtered. The filtrate is evaporated in vacuo and the residue dissolved in 250 ml. of methanol and cooled to 0°. A solution of 40 g. of sodium hydroxide in 200 ml. of water is added under nitrogen and the mixture stirred overnight. The bulk of the methanol is removed in vacuo whereupon a solid forms. The solid is separated by filtration, dissolved in 150 ml. of water and acidified with 20 ml. of concentrated hydrochloric acid. Cooling gives a solid which is filtered and dried to give 16.5 g. 2,3 cis-5,6,7,8-tetrahydro-1,6,7-naphthalenetriol) m.p. 184.5°-187°. Three recrystallizations from absolute ethanol give the analytical sample, m.p. 188°-188.5°.

reactant | 5,8-dihydro-1-naphthol | 0.2 mole | C1(=CC=CC=2CC=CCC12)O | C10H10O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetate | C(C)(=O)[O-]
reactant | iodine | 0.16 g | II | I2
catalyst | silver acetate | 0.32 mole | C(C)(=O)[O-].[Ag+]
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | cis-5,6,7,8-Tetrahydro-1,6,7-naphthalenetriol | C1(=CC=CC=2C[C@H]([C@H](CC12)O)O)O | C10H12O3
